US04999371
3-Bromo-3,4-dihydro-2,2-dimethyl-6-(4-methylphenylsulfonyl)-2H-benzo[b]pyran-4-ol 2H-benzo[b]pyran-4-ol
14.2 g (0.08 mol) of freshly recrystallized N-bromosuccinimide are introduced with cooling (isopropanol/dry ice) at about 15° C. into 12.6 g (0.04 mol) of 2,2-dimethyl-6-(4'-methylphenylsulfonyl)-chromene in a solution of 70 ml of dimethyl sulfoxide and 1.4 ml of water. The temperature rises temporarily to 27° C. The mixture is cooled to 20° C. and, after stirring for 1 hour, introduced into ice/ethyl acetate. The ethyl acetate phase is washed several times with water and dried over Na2SO4. On concentrating, the bromohydrin derivative crystallizes. Crystals of melting point: 141-142° C.

reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | isopropanol dry ice | C(C)(C)O.C(=O)=O
reactant | 2,2-dimethyl-6-(4'-methylphenylsulfonyl)-chromene | 0.04 mol, 12.6 g | CC1(OC2=CC=C(C=C2C=C1)S(=O)(=O)C1=CC=C(C=C1)C)C | C18H18O3S
reactant | dimethyl sulfoxide | 70 ml | CS(=O)C | C2H6OS
solvent | water | 1.4 ml | O | H2O
product | 3-Bromo-3,4-dihydro-2,2-dimethyl-6-(4-methylphenylsulfonyl)-2H-benzo[b]pyran-4-ol 2H-benzo[b]pyran-4-ol | O1C2=C(C(=CC1)O)C=CC=C2.BrC2C(C1=C(OC2(C)C)C=CC(=C1)S(=O)(=O)C1=CC=C(C=C1)C)O | InChI=1S/C18H19BrO4S.C9H8O2/c1-11-4-6-12(7-5-11)24(21,22)13-8-9-15-14(10-13)16(20)17(19)18(2,3)23-15;10-8-5-6-11-9-4-2-1-3-7(8)9/h4-10,16-17,20H,1-3H3;1-5,10H,6H2
